US05463080
5-[(4-Carboxy-1-oxobutyl)-amino]-2,4,6-triiodo-1,3-benzenedicarboxylic acid
To an ice cool stirred solution of 5-amino-2,4,6-triiodo-1,3-benzenedicarboxylic acid, diacid chloride (2.7 g, 4.6 mmol) in 3 mL of dimethylacetamide was added methyl (4-chloroformyl)butyrate (1.5 g, 9.0 mmol). The solution was stirred for 18 hours at room temperature. The reaction mixture ws poured into 25 mL of water and extracted with 3×15 mL of ethyl acetate. The combined organic phase was extracted with 2×10 mL of water, dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo to afford the desired product as a residue. The crude product was crystallized from CH3CN to yield 1.35 g of the title A compound, i.e., the isophthalyl chloride. The product was used without further purification.

reactant | 5-amino-2,4,6-triiodo-1,3-benzenedicarboxylic acid | NC=1C(=C(C(=C(C1I)C(=O)O)I)C(=O)O)I | C8H4I3NO4
reactant | water | 25 mL | O | H2O
solvent | dimethylacetamide | 3 mL | CC(=O)N(C)C | C4H9NO
product | 5-[(4-Carboxy-1-oxobutyl)-amino]-2,4,6-triiodo-1,3-benzenedicarboxylic acid | C(=O)(O)CCCC(=O)NC=1C(=C(C(=C(C1I)C(=O)O)I)C(=O)O)I | C13H10I3NO7
